US09315458B2
A) 2-chloro-3-methoxyphenol
To an aqueous solution (100 mL) of potassium hydroxide (11.0 g) was added 2-chlorobenzene-1,3-diol (22.8 g). Then, dimethyl sulfate (19.9 g) was slowly added to the reaction mixture while keeping the reaction mixture at 10° C. to 20° C., and the mixture was stirred at 100° C. for 2 days. The reaction mixture was acidified with 2N hydrochloric acid, and the mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (18.0 g).

reactant | 2-chlorobenzene-1,3-diol | 22.8 g | ClC1=C(C=CC=C1O)O | C6H5ClO2
reactant | dimethyl sulfate | 19.9 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | potassium hydroxide | 100 mL, 11.0 g | [OH-].[K+]
product | 2-chloro-3-methoxyphenol | 18.0 g | ClC1=C(C=CC=C1OC)O | C7H7ClO2
